US06423699B1
A mixture of 4-bromo-2-fluoro-1-nitro-benzene (9 g, 40 mmol), L-proline (4.6 g, 40 mmol), and potassium carbonate (7 g, 50 mmol) in ethanol (50 ml) and water (40 ml) was heated to reflux for 5 hours. After cooling to room temperature, the mixture was diluted with water and was adjusted to pH 6 with 1N aqueous HCl solution. The mixture was extracted with EtOAc (2×100 mL), the combined organic extracts were washed with water, then brine, dried (MgSO4) and evaporated to afford N-(5-bromo-2-nitro-phenyl)-pyrrolidine-2-carboxylic acid (6 g, 48%) which was used in the next step without further purification.

reactant | 4-bromo-2-fluoro-1-nitro-benzene | 40 mmol, 9 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | L-proline | 40 mmol, 4.6 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 50 mmol, 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | N-(5-bromo-2-nitro-phenyl)-pyrrolidine-2-carboxylic acid | 6 g, 48% | BrC=1C=CC(=C(C1)N1C(CCC1)C(=O)O)[N+](=O)[O-] | C11H11BrN2O4
